US08664401B2
Step C) (2R)—N-hydroxy-2-methyl-2-(methylsulfonyl)-4-{2-oxo-4-[4-(1H-pyrazol-1-yl)phenyl]pyridin-1(2H)-yl}butanamide
A solution of hydrochloric acid (3.0 mL, 4.0 M in 1,4-dioxane) was added dropwise to a solution of (2R)-2-methyl-2-(methylsulfonyl)-4-{2-oxo-4-[4-(1H-pyrazol-1-yl)phenyl]pyridin-1(2H)-yl}-N-(tetrahydro-2H-pyran-2-yloxy)butanamide (58 mg, 0.11 mmol) in dichloromethane (3.0 mL) and methanol (0.6 mL) at 0° C. After 2 h, the reaction was concentrated under reduced pressure. The resulting residue was triturated with diethyl ether, filtered, washed with heptane, and dried under reduced pressure to provide a light yellow solid (47 mg, 98%). MS (APCI) m/z 431.3 (M+1). 1H NMR (400 MHz, CD3OD) δ ppm 1.71 (s, 3H), 2.36-2.43 (m, 1H), 2.59-2.68 (m, 1H), 3.09 (s, 3H), 3.96-4.05 (m 1H), 4.30-4.40 (m, 1H), 6.56 (dd, J=1.8, 2.3 Hz, 1H), 6.93-6.95 (m, 2H), 7.76 (d, J=1.8 Hz, 1H), 7.82-7.92 (m, 5H), 8.31 (d, J=2.3, 1H).

reactant | hydrochloric acid | 4.0 M, 3.0 mL | Cl | ClH
reactant | (2R)-2-methyl-2-(methylsulfonyl)-4-{2-oxo-4-[4-(1H-pyrazol-1-yl)phenyl]pyridin-1(2H)-yl}-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 0.11 mmol, 58 mg | C[C@](C(=O)NOC1OCCCC1)(CCN1C(C=C(C=C1)C1=CC=C(C=C1)N1N=CC=C1)=O)S(=O)(=O)C | C25H30N4O6S
solvent | dichloromethane | 3.0 mL | ClCCl | CH2Cl2
solvent | methanol | 0.6 mL | CO | CH4O
product | (2R)—N-hydroxy-2-methyl-2-(methylsulfonyl)-4-{2-oxo-4-[4-(1H-pyrazol-1-yl)phenyl]pyridin-1(2H)-yl}butanamide | 47 mg, 98% | ONC([C@@](CCN1C(C=C(C=C1)C1=CC=C(C=C1)N1N=CC=C1)=O)(S(=O)(=O)C)C)=O | C20H22N4O5S
